US06320050B1
A solution of freshly prepared lithium diisopropylamide (35.32 mL of a 0.31M stock solution, 10.95 mmol) cooled to −78° C. was treated with (4-fluoro-3-trifluoromethyl-phenyl)-acetic acid (1.11 g, 5.0 mmol) in tetrahydrofuran/1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (12.42 mL, 3:1). The resulting solution was stirred at −78° C. for 1 h. Iodomethylcyclopentane (1.16 g, 5.52 mmol) was then added in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1.2 mL). The reaction mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 24 h. This solution was then quenched by the slow addition of the reaction mixture to a 2N aqueous hydrochloric acid solution (50 mL). The product was extracted into ethyl acetate (1×300 mL) and diethyl ether (1×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid (1.28 g, 84.3%) as a white solid: mp 65-68° C.; EI-HRMS m/e calcd for C15H16F4O2(M+) 305.1165, found 305.1174.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-fluoro-3-trifluoromethyl-phenyl)-acetic acid | 5.0 mmol, 1.11 g | FC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6F4O2
reactant | Iodomethylcyclopentane | 5.52 mmol, 1.16 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 12.42 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1.2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid | 1.28 g, 84.3% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)F)C(F)(F)F | C15H16F4O2
